US05332648
First, 4.3 g of sodium hydride (oily) was washed with dried toluene three times in a flask, whereby the oil was removed from the sodium hydride. Then, 20 ml of tetrahydrofuran was added to the washed sodium hydride. The resultant mixture was cooled to -20° C. Next, 15 g (0.047 mol) of phenolphthalein dissolved in 80 ml of tetrahydrofuran was added to the cooled mixture of sodium hydride and tetrahydrofuran, thus forming a mixture. This mixture was stirred for 30 minutes, and 21 g of di-t-butyl dicarbonate was added to the mixture. The resultant mixture was stirred for two hours, poured into a water, and subjected to ether extraction. As a result, 9.6 g of phenolphthalein di-t-butyl carbonate (PP-TBOC) was obtained.

reactant | phenolphthalein | 0.047 mol, 15 g | C=1C=CC2=C(C1)C(=O)OC2(C=3C=CC(=CC3)O)C=4C=CC(=CC4)O | C20H14O4
reactant | sodium hydride | [H-].[Na+]
reactant | di-t-butyl dicarbonate | 21 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | O | H2O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | phenolphthalein di-t-butyl carbonate | 9.6 g | C=1C=CC2=C(C1)C(=O)OC2(C=3C=CC(=CC3)O)C=4C=CC(=CC4)O.C(C)(C)(C)OC(OC(C)(C)C)=O | InChI=1S/C20H14O4.C9H18O3/c21-15-9-5-13(6-10-15)20(14-7-11-16(22)12-8-14)18-4-2-1-3-17(18)19(23)24-20;1-8(2,3)11-7(10)12-9(4,5)6/h1-12,21-22H;1-6H3
